US08124610B2
4-(2,4-Dimethoxy-benzylamino)-2-fluoro-N-thiazol-2-yl-benzenesulfonamide
Into a vial was added the 4-bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide (2.60 g, 0.00771 mol), sodium tert-butoxide (1.78 g, 0.0185 mol), 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.27 g, 0.00046 mol), tris(dibenzylideneacetone)dipalladium(0) (0.14 g, 0.00015 mol) and 1,4-dioxane (24.1 mL, 0.308 mol). Argon was bubbled for 15 minutes. 2,4-Dimethoxybenzylamine (1.40 mL, 0.00925 mol) was added and the reaction mixture was heated at 100° C. overnight. The reaction mixture was cooled to room temperature then filtered over Celite. The filtrate was concentrated to give the crude product that was purified via automated flash chromatography (silica gel, 50% EtOAc in hexanes to 100% EtOAc) to give the product as a yellow solid (2.59 g, 79.3%).

reactant | 4-bromo-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 0.00771 mol, 2.60 g | BrC1=CC(=C(C=C1)S(=O)(=O)NC=1SC=CN1)F | C9H6BrFN2O2S2
reactant | sodium tert-butoxide | 0.0185 mol, 1.78 g | CC(C)([O-])C.[Na+]
reactant | 1,4-dioxane | 0.308 mol, 24.1 mL | O1CCOCC1 | C4H8O2
reactant | 2,4-Dimethoxybenzylamine | 0.00925 mol, 1.40 mL | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.00015 mol, 0.14 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.00046 mol, 0.27 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
product | 4-(2,4-Dimethoxy-benzylamino)-2-fluoro-N-thiazol-2-yl-benzenesulfonamide | 2.59 g, 79.3% | COC1=C(CNC2=CC(=C(C=C2)S(=O)(=O)NC=2SC=CN2)F)C=CC(=C1)OC | C18H18FN3O4S2
